US08686004B2
Stage 1: 6-[1-(Pyridin-3-yl)-1H-pyrazol-4-yl]pyridine-2-sulphonamide
Under argon, 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]pyridine (0.2 g, 0.74 mmol, prepared by the methods described in WO 2011/045224), 6-bromopyridin-2-sulphonamide (0.175 g, 0.74 mmol) and tetrakis(triphenylphosphine)palladium (0.025 g, 0.022 mmol) were added to a mixture, degassed by means of argon, of sodium carbonate solution in water (2.9 ml, 2 M/L) and acetonitrile (4 ml). The reaction mixture was stirred at 70° C. for 18 h. After cooling, the reaction mixture was poured onto water and the precipitated crystals were filtered off with suction. They were subsequently stirred with diethyl ether and filtered off with suction. This gave 0.23 g (97% of theory) of 6-[1-(pyridin-3-yl)-1H-pyrazol-4-yl]pyridine-2-sulphonamide.

reactant | 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]pyridine | CC1(OB(OC1(C)C)C=1C=NN(C1)C=1C=NC=CC1)C | C14H18BN3O2
reactant | 6-bromopyridin-2-sulphonamide | 0.74 mmol, 0.175 g | BrC1=CC=CC(=N1)S(=O)(=O)N | C5H5BrN2O2S
catalyst | tetrakis(triphenylphosphine)palladium | 0.022 mmol, 0.025 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-[1-(Pyridin-3-yl)-1H-pyrazol-4-yl]pyridine-2-sulphonamide | N1=CC(=CC=C1)N1N=CC(=C1)C1=CC=CC(=N1)S(=O)(=O)N | C13H11N5O2S
